US07612114B2
N-(2-Benzothiazol-2-yl-5-hydroxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide
A mixture of acetic acid 3-{acetyl-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-bromophenyl ester (50 mg) and dichlorobis(triphenylphosphine)palladium (II) (7 mg), xylene (1 ml) and 2-tributylstannylbenzothiazole (84 mg) was refluxed for 1.5 hours. The reaction mixture was cooled at room temperature, methanol (2 ml), water (1 ml) and potassium carbonate (50 mg) was added thereto, and the solution was vigourously stirred for 15 minutes at room temperature. The reaction mixture was diluted with water, extracted with ethyl acetate, then dried over anhydrous magnesium sulfate, and the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (ethyl acetate-methanol system) to provide the title compound (20 mg).

reactant | acetic acid 3-{acetyl-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-bromophenyl ester | 50 mg | C(C)(=O)N(C=1C=C(C=CC1Br)OC(C)=O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C24H28BrFN2O4
reactant | xylene | 1 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 2-tributylstannylbenzothiazole | 84 mg | C(CCC)[Sn](C=1SC2=C(N1)C=CC=C2)(CCCC)CCCC
reactant | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium | 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | N-(2-Benzothiazol-2-yl-5-hydroxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide | 20 mg | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)O)N(C(C)=O)CC2=CC(=C(C=C2)OCCN2CCCCC2)F | C29H30FN3O3S
